US04111923
(f) D-Phenylalanyl-L-leucine methyl ester hydrochloride
A solution of 7 g. (0.016 mol) of Nα -benzyloxycarbonyl-D-phenylalanyl-L-leucine methyl ester in 120 ml. of methanol is treated with 6.12 ml. of 2.680N hydrogen chloride in methanol and reduced with hydrogen and 500 mg. of 10% palladium on carbon at atmospheric pressure. The reaction is monitored by thin layer chromatography. The mixture is filtered to separate the catalyst and the solution evaporated; 5.4 g. as a glass; [α]D23 -82.5° (c 1.02, methanol).

reactant | Nα -benzyloxycarbonyl-D-phenylalanyl-L-leucine methyl ester | 0.016 mol | COC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC(C)C)=O | C24H30N2O5
reactant | hydrogen chloride | 2.680N | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | D-Phenylalanyl-L-leucine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@H](N)CC1=CC=CC=C1)=O)CC(C)C)=O | InChI=1S/C16H24N2O3.ClH/c1-11(2)9-14(16(20)21-3)18-15(19)13(17)10-12-7-5-4-6-8-12;/h4-8,11,13-14H,9-10,17H2,1-3H3,(H,18,19);1H/t13-,14+;/m1./s1
